US06342765B1
Cyclopentyl (2S)-2-{3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyrid-2-oylamino}-4-methylsulfanylbutyrate
The title compound was prepared from 3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyridin-2-carboxylic acid by a similar route to that described for the preparation of tert-butyl (2S)-2-{3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyrid-2-oylamino}-4-methylsulfanylbutyrate but using L-methionine cyclopentyl ester rather than L-methionine-tert-butyl ester.

reactant | 3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyridin-2-carboxylic acid | FC1=CC=C(CCC=2C(=NC(=CC2)OC(CC2=CN=CN2C)C2=CC=C(C=C2)F)C(=O)O)C=C1 | C26H23F2N3O3
reactant | tert-butyl (2S)-2-{3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyrid-2-oylamino}-4-methylsulfanylbutyrate | FC1=CC=C(CCC=2C(=NC(=CC2)OC(CC2=CN=CN2C)C2=CC=C(C=C2)F)C(=O)N[C@H](C(=O)OC(C)(C)C)CCSC)C=C1 | C35H40F2N4O4S
reactant | L-methionine cyclopentyl ester | C1(CCCC1)OC([C@@H](N)CCSC)=O | C10H19NO2S
reactant | L-methionine-tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CCSC)=O | C9H19NO2S
product | Cyclopentyl (2S)-2-{3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyrid-2-oylamino}-4-methylsulfanylbutyrate | FC1=CC=C(CCC=2C(=NC(=CC2)OC(CC2=CN=CN2C)C2=CC=C(C=C2)F)C(=O)N[C@H](C(=O)OC2CCCC2)CCSC)C=C1 | C36H40F2N4O4S
